US05977133
A freshly prepared solution of lithium diethylamide (LDA) (58.21 mmol) in 30 mL of THF at -78° C. was added to 10.0 g (48.74 mmol) of 4-t-butoxy-2,3,6-trifluoropyridine in 50 mL of THF at -78° C, and the reaction was stirred for 50 min. To the reaction mixture was added 4.3 mL (69.07 mmol) of methyl iodide, and the mixture was stirred at -78° C. for 1 hour and stirred at ambient temperature for 16 hours. The reaction was quenched with saturated NH4Cl solution, extracted with hexane, and the extracts washed with water, dried over MgSO4 and concentrated to give 4-t-butoxy-2,3,6-trifluoro-5-methylpyridine as a pale yellow oil, which was taken directly to the next step. MS (220) (M+H)+ ; 1H NMR (CDCl3)∂: 1.47 (m, 9H), 2.12 (m, 3H). 19F NMR (CDCl3, CFCl3 as reference)∂: 75.91 (dd apparent, J1 =15.0, J2 =22.1 Hz), 93.17 (dd apparent, J1 =15.0, J2 =22.1 Hz), 156.54 (m).

reactant | lithium diethylamide | 58.21 mmol | C(C)[N-]CC.[Li+]
reactant | 4-t-butoxy-2,3,6-trifluoropyridine | 48.74 mmol, 10.0 g | C(C)(C)(C)OC1=C(C(=NC(=C1)F)F)F | C9H10F3NO
reactant | methyl iodide | 69.07 mmol, 4.3 mL | CI | CH3I
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-t-butoxy-2,3,6-trifluoro-5-methylpyridine | C(C)(C)(C)OC1=C(C(=NC(=C1C)F)F)F | C10H12F3NO
